US04204064
N-(2-benzylthioethyl)nicotinamide: (Method VII)
30 grams of ethyl nicotinate and 80 grams of 2-benzylthio ethylamine are heated for 12 hours at 170°-180° C. The ethane liberated during the reaction is removed by means of a Dean Stark apparatus. After cooling, the reaction mixture is dissolved in 400 cc of carbon tetrachloride; by addition of petroleum ether, the N-(2-benzylthioethyl)nicotinamide crystallizes: 47 g. By crystallization in a mixture of carbon tetrachloride and cyclohexane, there are recovered colorless crystals of the above product melting at 79° C.

reactant | ethyl nicotinate | 30 grams | C(C1=CN=CC=C1)(=O)OCC | C8H9NO2
reactant | 2-benzylthio ethylamine | 80 grams | C(C1=CC=CC=C1)SCCN | C9H13NS
reactant | ethane | CC | C2H6
product | N-(2-benzylthioethyl)nicotinamide | C(C1=CC=CC=C1)SCCNC(C1=CN=CC=C1)=O | C15H16N2OS
